2134-01-17 09:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   hypoventilation, hypoxemia, fevers and eventual respiratory failure -
   placed on vent. Bronch showed occlusion of trach due to ? granulation
   tissue and orifice abuting tracheal wall - improved with re-positioning
   of trach.
   24 Hour Events:
 BRONCHOSCOPY - At [**2134-1-17**] 01:30 AM
 BRONCHOSCOPY - At [**2134-1-17**] 03:00 AM
 ARTERIAL LINE - START [**2134-1-17**] 04:41 AM
 URINE CULTURE - At [**2134-1-17**] 06:06 AM
   Patient unable to provide history: Sedated, on vent
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2134-1-17**] 05:55 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-1-17**] 01:05 AM
   Pantoprazole (Protonix) - [**2134-1-17**] 04:29 AM
   Heparin Sodium (Prophylaxis) - [**2134-1-17**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   laryngeal cancer - trach [**12-31**] elsewhere
   COPD
   CAD
   DM
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-1-17**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 105 (105 - 126) bpm
   BP: 116/56(71) {116/56(71) - 131/60(79)} mmHg
   RR: 18 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
             449 mL
   PO:
             TF:
   IVF:
   449 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    680 mL
   Urine:
   280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -231 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 317 (58 - 1,175) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: 7.47/26/190/20/-2
   Ve: 5.1 L/min
   PaO2 / FiO2: 475
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   497 K/uL
   344 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.6 mEq/L
   19 mg/dL
   101 mEq/L
   141 mEq/L
   37.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2134-1-17**]  12:01 AM
                             [**2134-1-17**]  01:48 AM
                             [**2134-1-17**]  02:04 AM
                             [**2134-1-17**]  04:55 AM
                             [**2134-1-17**]  06:33 AM
   WBC
   8.6
   Hct
   37.4
   Plt
   497
   Cr
   1.2
   TropT
   0.11
   TCO2
   21
   23
   20
   19
   Glucose
   344
   Other labs: PT / PTT / INR:16.4/34.5/1.5, CK / CKMB /
   Troponin-T:156/7/0.11, Lactic Acid:2.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Fluid analysis / Other labs: 7.47/26/190
   lactate 2.1
   Imaging: and CT - hiatal hernia, clear lung bases
   CXR without obvious infiltrate
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - continue to support on
   vent, no changes now until surgical plan formulated
 .H/O AIRWAY OBSTRUCTION, CENTRAL / UPPER - will discuss with IP,
   needs trach changed
   COPD  wean steroids
   DM cont insulin
   fever - unclear cause, on empiric abx, follow
   laryngeal cancer - unclear history
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2134-1-17**] 01:57 AM
   Arterial Line - [**2134-1-17**] 04:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2134-01-18 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-17**] Events:
   - IP replaced trach, airway stabalized
   - back on trach collar, doing well
   - dobhoff placement attempted and failed, D5/0.5NS tonight
   - insulin gtt changed to sliding scale
   - c/o headache, consistent with prior migraines, tx with morphine
 BRONCHOSCOPY - At [**2134-1-17**] 02:31 PM
   trach changed
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2134-1-18**] 06:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-1-18**] 04:19 AM
   Morphine Sulfate - [**2134-1-18**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-1-18**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 78 (75 - 107) bpm
   BP: 157/67(100) {110/50(69) - 164/70(104)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,953 mL
                                                                    660 mL
   PO:
             TF:
   IVF:
                                                                  1,953 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    530 mL
   Urine:
                                                                    735 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    818 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 259 (259 - 317) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.47/37/137/26/4
   Ve: 5.5 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, Anxious, acutely agitated and tachyneic, looks uncomfortable
   in respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, difficult to appreciate JVD elevation
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : , Diminished: significantly decreased breath
   sounds bilaterally), + wheezes but more stridor than wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   454 K/uL
   9.5 g/dL
   169 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   24 mg/dL
   111 mEq/L
   146 mEq/L
   29.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2134-1-17**]  12:01 AM
                             [**2134-1-17**]  01:48 AM
                             [**2134-1-17**]  02:04 AM
                             [**2134-1-17**]  04:55 AM
                             [**2134-1-17**]  06:33 AM
                             [**2134-1-17**]  01:24 PM
                             [**2134-1-17**]  04:00 PM
                             [**2134-1-18**]  04:12 AM
                             [**2134-1-18**]  04:13 AM
   WBC
   8.6
   13.2
   Hct
   37.4
   29.1
   Plt
   497
   454
   Cr
   1.2
   1.0
   TropT
   0.11
   0.10
   TCO2
   21
   23
   20
   19
   28
   28
   Glucose
   344
   169
   Other labs: PT / PTT / INR:15.2/28.7/1.3, CK / CKMB /
   Troponin-T:83/7/0.10, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.3
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   69M with history of laryngeal cancer, s/p recent trach, COPD; admit
   with respiratory failure requiring mechanical ventilation.
   .
   # Respiratory failure.  Initially described to have seemingly
   hypoventilatory failure with low respiratory rate; in ED patient with
   increased respiratory effort but distressed.  Differential initially
   included COPD exacerbation or other cause of acute bronchospasm
   (allergic reaction/anaphylaxis from ?CT contrast), pneumonia (no
   infiltrate on CXR), mucous plugging, ACS or CHF exacerbation (elevated
   BNP with small increase in troponin), oversedation/hypoventilation (a
   possibility initially when having low respiratory rates, less of a
   possibilty now).  However, now seeming to be more of an airway/trach
   problem - bronch in ICU with granulation tissue overlaying end of trach
   causing ?obstruction.
   - Needs replacement of trach - OR vs. ICU tomorrow.  IP saw this
   evening and will follow.
   - Maintain on vent overnight with sedation: CPAP vs. AC depending on
   tolerance.
   - Bolus sedation prn - propofol gtt.  Keep sedated to minimize
   agitation and obstruction until replacement of trach tomorrow.
   - Treat for COPD exacerbation with Solumedrol 125 Q8H overnight; change
   to 60 PO prednisone in AM if does well.  Levofloxacin 750 daily x 5
   days given severe exacerbation requiring mech vent.
   - Given evidence of mild volume overload (elevated BNP and some fluid
   on CXR) will likely need IV lasix at some point; holding off for now as
   not primary issue and patient with tenuous status.
   - ATC and prn bronchodilators and benadryl to decrease airway edema.
   - Consider inhaled or subQ epi if appears to have anaphylaxis.
   - Place A line tonight.
   .
   # Leukocytosis and fever.  T 103 at arrival to OSH.  With bandemia at
   OSH; here with neutrophil predominence without bands.  Now also on
   steroids.  CT abd without evidence of source.
   - Blood, urine, and sputum cultures (endotracheal).  Consider C.diff if
   diarrhea.
   - Levofloxacin for COPD flare; can tailor therapy if sputum cx positive
   or not clinically responding.  Hold pseudomonal coverage for now given
   lack of previous culture data and overall hemodynamic stability.
   Broaden if decompensates.
   .
   # Laryngeal cancer.  s/p trach with difficulting passing bronchoscopy
   through cords.
   - steroids/benadryl as above.
   - ?ENT consult.
   - OSH records re: treatment plans and history.
   .
   # Elevated troponin.  No chest pain or concerning ECG findings, ?demand
   in setting of hypoxia/acute respiratory failure.
   - Repeat ECG in AM.
   - Trend troponins.
   - Daily ASA reasonable (got today); hold off on further meds for ACS
   unless more clear evidence of cardiac ischemia.
   .
   # Metabolic acidosis.  AG 20.  Lactate 2, does have ketones on UA.
   Creatinine 1.2 with unclear baseline but may have ARF component
   contributing.
   - Continue to monitor ABGs.
   - Insulin to control blood glucose and ketonemia.
   .
   # Diabetes type II.
   - Insulin sliding scale with QID FSG.
   .
   # Anxiety.
   - Propofol gtt to keep relatively comfortable while optimizing
   pulmonary status overnight.
   .
   # FEN: no GI access
   .
   # Access: PIVs
   .
   # PPx: no on SQ hep, PPI?
   .
   # Code: full
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-1-17**] 01:57 AM
   Arterial Line - [**2134-1-17**] 04:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: